US06825194B2
(b) (9S)-2-(dimethylamino)-9-ethyl-9-hydroxy-1-(2-methylpropyl)-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13 (9H,15H)-dione Hydrochloride
To a solution of (9S)-9-acetoxy-2-(dimethylamino)-9-ethyl-1-(2-methylpropyl)-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione (8.7 mg, 0.023 mmol) in methanol (2 ml) and 1,4-dioxane(2 ml) cooled in an ice-bath was added anhydrous hydrazine (100 μl). The mixture was warmed to room temperature and stirred for 3 hr. 10% HCl in methanol was added dropwise to acidify the reaction mixture and the mixture was stirred at room temperature for 2 h. After concentrated under reduced pressure, the obtaining residue was purified by reversed phase column chromatography (water/methanol=1/0−1/2) to give the product (7.4 mg, 85%) as a yellow powder.

reactant | (9S)-9-acetoxy-2-(dimethylamino)-9-ethyl-1-(2-methylpropyl)-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione | 0.023 mmol, 8.7 mg | C(C)(=O)O[C@@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C(=NC6C=CC5)N(C)C)CC(C)C)C3=CC21)=O)=O)CC | C29H31N5O5
reactant | hydrazine | 100 μl | NN | H4N2
reactant | HCl | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (9S)-2-(dimethylamino)-9-ethyl-9-hydroxy-1-(2-methylpropyl)-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13 (9H,15H)-dione Hydrochloride | 7.4 mg, 85% | Cl.CN(C1=NC=2C=CC=C3C2C(N1CC(C)C)=C1C(=N3)C3=CC2=C(C(N3C1)=O)COC([C@]2(O)CC)=O)C | InChI=1S/C27H29N5O4.ClH/c1-6-27(35)17-10-20-22-15(12-31(20)24(33)16(17)13-36-25(27)34)23-21-18(28-22)8-7-9-19(21)29-26(30(4)5)32(23)11-14(2)3;/h7-10,14,35H,6,11-13H2,1-5H3;1H/t27-;/m0./s1
